US07399759B2
3-[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propanamide
3-[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propionic acid (0.31 g, 1.00 mmol), isobutyl chloroformate (0.22 ml, 1.50 mmol) and triethylamine (0.22 ml, 1.50 mmol) were dissolved in THF (10 ml), and the mixture was stirred under ice cooling condition for 1 hr. 25% aqueous ammonium solution was added to the mixture, and the mixture was stirred under ice cooling condition for 0.5 hr. The obtained precipitates were recrystallized from ethanol to give the titled compound (0.15 g, 49%) as white crystals.

reactant | 3-[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propionic acid | 1.00 mmol, 0.31 g | O=C1N=C(SC2=C1C=CC=C2)C2=CC(=CC=N2)CCC(=O)O | C16H12N2O3S
reactant | isobutyl chloroformate | 1.50 mmol, 0.22 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | triethylamine | 1.50 mmol, 0.22 ml | C(C)N(CC)CC | C6H15N
reactant | ammonium | [NH4+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propanamide | 0.15 g, 49% | O=C1N=C(SC2=C1C=CC=C2)C2=CC(=CC=N2)CCC(=O)N | C16H13N3O2S
